Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache/Nausea/Vomiting

 
Major Surgical or Invasive Procedure:
EGD/Colonoscopy ___ - normal
Kidney biopsy ___ - consistent with hypertensive 
nephropathy

 
History of Present Illness:
___ with no significant PMHx (had not seen physician ___ > ___ 
years) who was admitted to ___ with hypertensive 
emergency and ___ on ___ with systolic BP 230s-250s ___ ER and 
transferred to ___ for further management of hypercarbic 
respiratory failure.

Per report, patient had been having intermittent nausea/vomiting 
and headaches for which he was taking Advil 800 mg daily for 
approximately ___ weeks prior to admission.  He was taking 
testosterone which he obtained over the internet during this 
period (total of 3 doses during the month of ___, but no 
other meds other than the advil noted above.  Due to these 
ongoing symptoms, patient went to see his PCP for initial visit 
~2 weeks prior to admission.  At the PCP visit his BP was noted 
to be 210 systolic.  He had minimal symptoms and was started on 
25mg HCTZ at that time and advised to return to the PCP's office 
___ 2 weeks for re-evaluation and for lab work.  Patient 
reportedly lost ~20 lbs over next 2 weeks.  At ___ visit with 
his PCP his BP was still elevated and he was noted to have 
creatinine of 3.4 on lab work.  He was then sent to the ED at 
___.  On arrival to ED, BPs were ___ the 
230s-250s/130s-160.  Patient was not having any chest pain other 
symptoms other than those noted above on admission to ___ 
___.

Patient was started on nitro gtt and admitted to ICU for 
management of malignant hypertension and ___.  He has been on 
nitro gtt since admission, and also has intermittently been on 
clonidine, vasotec, hydralazine, and metoprolol. MRI/MRA brain 
done on ___ showed diffuse T2 prolongation of white matter 
involving mesencephalon, pons and cerebellum.  MRI ___ showed 
scatter regions of acute infarcts ___ the deep brain ___ 
hemispheres bilaterally.  Patient's mental status remained 
altered throughout hospitalization.  Per girlfriend/HCP, his 
mental status was worse when BPs were lower ___ the 140-160 range 
- specifically he appeared less "lucid," had difficulty with 
orientation.  ___ addition, he was agitated at times which was 
out of character.  He was seen by neurology on ___ who 
recommended continued blood pressure control and repeat MRI ___ 
___ weeks, gave diagnosis of variant posterior 
leukoencephalopathy syndrome/PRES variant.  Patient was seen by 
psychiatry who felt that his mental status changes were most 
likely secondary to long-standing uncontrolled hypertension.  
Patient was started on Zyprexa. Lumbar puncture was done on 
___, culture was negative, EBV pcr from CSF was negative, ___ and IgG were negative.  Lyme PCR and RPR were negative. 
 TSH was wnl.

___ addition, patient was noted to have negative initial troponin 
I which subsequently increased to 0.176.  Patient was seen by 
cardiology who felt trop leak was secondary to ___ and 
hypertension.  Echo done on ___ had LVEF 60%, concentric LV 
hypertrophy c/w hypertensive changes, normal RV.  He was also 
seen by nephrology for proteinuria and ___.  Nephrology felt 
patient had hypertensive nephropathy.  They recommended 
ace-inhibitor, and beta-blocker.  They also recommended ___ and 
ANCA to be sent to rule out other causes of kidney injury.  ANCA 
was negative, unclear ___ was sent.  Renal ultrasound was 
done which showed right-sided renal cyst, otherwise normal.

Regarding his respiratory status, on ___, patient was 
intubated for hypercarbic respiratory failure.  Was extubated on 
___.  On he was reintubated that evening and extubated on 
___.  On morning of ___ he was re-intubated for hypercarbia 
and concern for airway protection.  Patient became hypotensive 
during intubation, thus nitro gtt was dc'd, and all other 
hypertensive meds were held.

Also, patient became febrile on ___, Blood cultures from ___ 
with GPCs ___ clusters.  Sputum from ___ grew proteus mirabilis 
sensitive to unasyn, cefazolin and cefepime.  Patient also 
became febrile overnight on ___ to 103.2, patient was 
pan-cultured and started on vanc/zosyn.

On arrival to the ___ ICU, initial vitals were: T:99.4 
BP:167/101 P:87 R:22 O2:100% on vent - CPAP, 40% FiO2, 5 PEEP, 
pressure support 10.  Patient was intubated and sedated - unable 
to respond to commands.  Unable to obtain ROS due to sedation.

 
Past Medical History:
Hypertension

 
Social History:
___
Family History:
Unknown, patient is adopted. 

 
Physical Exam:
On Admission:

VS T:99.4 BP:167/101 P:87 R:22 O2:100% on vent - CPAP, 40% FiO2, 
5 PEEP, pressure support 10  
General: Intubated, sedated
HEENT: NC/AT, sclera anicteric, ET tube ___ place 
Neck: supple, JVP not elevated, no LAD 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no r/m/g
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: Foley ___ place with clear yellow urin  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro:
MS - intubated, alert, regards to voice, does not follow 
commands
CN - PERRL 4 to 2 bilaterally, patient can track examiner across
room horizontally, can look down, but does not look up to voice,
patient is too alert to dolls, possible mild L ptosis, intact
gag/cough
Motor - increased tone throughout with spasticity ___ LUE>RUE,
greater spontaneous movement of LUE/LLE compared to RUE/RLE.
Strength at least 4+ ___ b/l deltoids/biceps/triceps, Strength at
least 4- ___ LLE IP/quad/hams. Strength at least 3 ___ RLE
IP/quad/hams. Reflexes symmetrically 3+ throughout at
biceps/brachioradialis/patella, symmetrically 2+ at achilles. No
ankle clonus. Toes equivocal on L, down on R. 
Sensory - patient withdraws all extremities to vigorous
non-noxious tactile stimuli. 
Coordination - no dysmetria with pushing away examiners hand 
with
UE bilaterally
>
>
>
>
>
>
>
>
>
>
>
>
>
>
>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>>
On Discharge:

General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus, MMM, clear oropharynx 
Neck: Supple, no nuchal rigidity. No carotid bruits 
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions

Neurologic: 

-Mental Status: Alert, oriented to hospital, year, name, patient 
incorrectly said month was ___ (currently ___. Able 
to relate history without
difficulty - can recall events of last few days.  Language is 
fluent with intact comprehension.  Normal prosody.  There were 
no paraphasic errors. Pt. was able to name both high and low 
frequency objects.  Able to read without difficulty.  Speech was 
mildly dysarthric. Able to follow both midline and appendicular 
commands. Continues to report some visual halluciations, aware 
that they are hallucinations - last was 2d prior to discharge.

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: Face symmetric
VIII: Hearing intact to finger-rub bilaterally. No evidence of
hyperacusis. 
IX, X: Palate elevates symmetrically.  
XI: ___ strength ___ trapezii and SCM bilaterally. 
XII: Tongue protrudes ___ midline and has symmetric strengh.

-Motor: Normal bulk, tone throughout. No pronator drift. No
adventitious movements. No asterixis. Very slight orbiting 
around the RUE.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   2 
R  2  2    2    2   2

Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally. Action 
tremor with R arm greater than left.  

-Gait: deferred

DISCHARGE PHYSICAL THERAPY EXAM:
Hemodynamic Response/Aerobic Capacity
          Position    HR      BP      RR     O2     RPE
Rest      Supine      94      130/98  16     98%RA
          Sit         ___ 20     99%RA
Activity  Sit p amb   104     132/96  20     98%RA
Recovery  Sit         92      132/102 16     98%RA
Total Distance Walked: 250ft w/ 1 rest break

Functional Status      
     Rolling: I Use of rail: No
     Sup/Sidelying to Sit: I Head of Bed Elevated: No
     Sit to Stand: S to ___
     Ambulation: S-CGA w/ ___ without AD
     Stairs: deferred - pt does not negotiate at home
     Other Activity: n/a
     Specify: Sit to stand with use of BUE, able to complete on 
1 attempt
***Abbreviation Key*** I=Independent S=Supervision ___
Guard ___ Walker SW=Standard Walker SC=Straight Cane
AC=Axillary Crutches

Gait: Ambulated 250ft w/ ___ and S-CGA with cues for decreased 
cadence. Steady w/ direction change. Mild R knee hyperextension 
___ stance, decreased RLE stance time and LLE step length. 
Required 1 rest break secondary to fatigue. 

Balance:  I static/dynamic sitting balance without BUE support; 
able to reach outside of BOS with BUE and return to midline 
without assist. S static stance w/ ___ for BUE support. CGA 
progressing to S w/ ___ for BUE support. 

Pain: denies pain at rest and with mobility

Limiting Symptoms:  fatigue

Other Tests and Measures: 
___ Performance Orientated Mobility Assessment:
- Balance Tests -
1. Sitting Balance: 1
2. Arises: 1
3. Attempts to Arise: 2
4. Immediate Standing Balance: 1
5. Standing Balance: 1
6. Nudged: 2
7. Eyes Closed: 1
8. Turing 360 Degrees: 1
9. Sitting Down: 1
Balance Score:  ___

- Gait Tests -
10. Initiation of Gait: 1
11. Step Length and Height: 4
12. Step Symmetry: 0
13. Step Continuity: 1 
14. Path: 1
15. Trunk: 0
16. Walking Stance: 1
Gait Score:  ___
Gait + Balance Total Score: ___

 
Pertinent Results:
On Admission:

Labs:

___ 01:01PM BLOOD WBC-7.4 RBC-3.37* Hgb-10.0* Hct-30.9* 
MCV-92 MCH-29.6 MCHC-32.3 RDW-16.2* Plt ___
___ 01:01PM BLOOD Neuts-81.8* Lymphs-8.8* Monos-5.3 Eos-3.8 
Baso-0.3
___ 01:01PM BLOOD ___ PTT-34.1 ___
___ 10:02PM BLOOD ACA IgG-6.2 ACA IgM-8.2
___ 01:01PM BLOOD Glucose-86 UreaN-44* Creat-3.4* Na-146* 
K-3.7 Cl-109* HCO3-24 AnGap-17
___ 04:00AM BLOOD ALT-46* AST-53* LD(LDH)-184 AlkPhos-113 
TotBili-1.1
___ 01:01PM BLOOD Calcium-9.5 Phos-3.5 Mg-2.2
___ 10:02PM BLOOD CRP-135.1*
___ 10:02PM BLOOD C3-156 C4-45*

Imaging:

CHEST (PORTABLE AP) ___:
IMPRESSION:  
The lung volumes are low. The patient is intubated, the 
endotracheal tube 
projects approximately 2.6 cm above the carinal. The patient 
also has a 
nasogastric tube, the tip is not visualized on the image. 
Finally, the patient has a right internal jugular vein catheter. 
The course of the catheter is unremarkable, the tip of the 
catheter projects over the upper to mid SVC. 
  
Moderate cardiomegaly with retrocardiac atelectasis and, 
potentially, a small left pleural effusion. The patient is ___ 
mild pulmonary edema. ___ addition, there is a rounded opacity at 
the lateral and lower aspect 's of the right hilus, potentially 
representing atelectasis. However, short term radiographic 
followup should be performed to exclude developing pneumonia or 
aspiration. There is no evidence of pneumothorax. 

CT CHEST W/O CONTRAST ___:
IMPRESSION:  
All of the pulmonary abnormalities could be due to atelectasis 
bilateral lower lobe, including collapse without bronchial 
obstruction.  Lesions ___ the posterior segment of the right 
upper lobe and particularly the lingula should be re-evaluated 
with chest CT, contrast enhanced if clinically feasible, when 
aeration improves elsewhere. Pulmonary hypertension. 
Cardiomegaly. No pulmonary edema or pleural effusion. 

CT HEAD W/O CONTRAST ___:
IMPRESSION: 
1. Comparison across modalities to recent MRI is difficult. 
However, there is no significant change since outside CT of ___. Again there is nonspecific diffuse hypodensity of 
the white matter.  Possible hypodense area 
___ the left cerebellar hemisphere. 
2. Diffuse distribution is somewhat atypical for PRES although 
PRES can be seen ___ a non- posterior distribution. Repeat MRI 
may be helpful for further evaluation. 
3. New aerosolized secretions ___ the sphenoid sinuses, 
opacification of the left mastoid air cells and fluid ___ the 
left middle ear cavity. Please correlate clinically for acute 
sinusitis. 

EEG ___:
IMPRESSION: This is an abnormal continuous ICU monitoring study 
because of frequent blunted epileptiform discharges ___ bilateral 
occipital regions. These, only on rare occasions, have a high 
voltage sharp morphology, ___ the bilateral posterior quadrants, 
phase reversing ___ a broad field isoelectric at O1 and O2 or at 
times with shifting laterality between each posterior quadrant. 
At times, these occur ___ brief runs at ___ Hz lasting up to 
five seconds ___ the first half of the recording but do not 
evolve ___ frequency, morphology, or location to meet criteria 
for seizure. ___ the latter half of the recording, the frequency 
of the brief runs decrease to 0.5-0.75 Hz and predominantly have 
only a blunted morphology. These sharp waves indicate 
potentially epileptogenic foci ___ both occipital regions. 
Additionally, there is a continuous pattern of severe diffuse 
background slowing fluctuating with a discontinuous burst 
suppression pattern throughout the entire recording. These 
findings are indicative of severe diffuse cerebral dysfunction 
which is non-specific as to etiology. The fluctuations of the 
continuous and discontinuous background pattern could indicate 
either fluctuation ___ severity of the severe diffuse cerebral 
dysfunction or effects of sedating medications. 

EKG ___:
Sinus rhythm. Left atrial abnormality. Prior anteroseptal and 
lateral 
myocardial infarction. Slight ST segment elevation ___ leads 
V1-V2 with 
ST segment depression and T wave inversion ___ leads I and aVL. 
ST segment 
flattening and slight depression ___ leads II and aVF. The ST-T 
wave changes raise the question of active anterolateral ischemic 
process. No previous tracing available for comparison. Clinical 
correlation is suggested.  

TRANSTHORACIC ECHOCARDIOGRAM ___:
Suboptimal image quality. The left atrium is mildly dilated. No 
thrombus/mass is seen ___ the body of the left atrium. No atrial 
septal defect or patent foramen ovale is seen by 2D, color 
Doppler or saline contrast at rest. The estimated right atrial 
pressure is at least 15 mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). No masses or 
thrombi are seen ___ the left ventricle. There is no ventricular 
septal defect. The right ventricular cavity is moderately 
dilated with normal free wall contractility. No masses or 
vegetations are seen on the aortic valve, but cannot be fully 
excluded due to suboptimal image quality. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. No mass or vegetation is 
seen on the mitral valve. Trivial mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. Tricuspid 
regurgitation is present but cannot be quantified. There is 
moderate pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. There are no 
echocardiographic signs of tamponade.  

MRA MRA BRAIN/NECK W/O CONTRAST ___:
IMPRESSION:  
Study somewhat suboptimal; circle of ___ not completely 
included. 
Allowing for technical limitations, no flow-limiting stenosis or 
aneurysm more than 3mm  of the circle ___ or vessels of the 
neck. Consider repeat evaluation with better quality images when 
feasible. 

___ EEG

IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because
of occasional blunted epileptiform discharges ___ the bilateral 
posterior
quadrants, phase reversing ___ a broad field isoelectric at O1 
and O2 or at
times with shifting laterality between each posterior quadrant. 
On rare
occasions, these discharges occur ___ brief ___ second runs at 
0.25-0.5 Hz but
do not evolve ___ frequency, morphology, or location to meet 
criteria for
seizure. These blunted epileptiform discharges indicate 
potentially
epileptogenic foci ___ both occipital regions. There is moderate 
to severe
diffuse background slowing, which is nonspecific as to etiology. 
Compared to
the previous days recording, the bilateral posterior quadrant 
epileptiform
discharges have decreased ___ frequency, and there is mild 
improvement ___ the
background.

___ CXR

IMPRESSION: 
 
Examination is centered at the diaphragm, excluding the lung 
apices. Moderate
cardiomegaly is stable, but mild interstitial edema may have 
improved. There
is no evidence of pneumothorax or pleural effusion along the 
imaged pleural
surfaces. Left PIC line ends close to the superior cavoatrial 
junction,
repositioned from the azygos vein. Feeding tube has been 
withdrawn to the
upper stomach. The side ports may not all be beyond the 
gastroesophageal
junction.

___ MRI (radiology read)

IMPRESSION: 
 
Several acute small subcortical infarcts are identified since 
the previous MRI
examination. There is been some decrease ___ hyperintensities ___ 
the basal
ganglia, brainstem and cerebellum and cerebral convexity 
regions. Extensive
changes still remain.

___ Renal U/S
Limited exam demonstrating no hydronephrosis of the left kidney. 
Right kidney was not imaged due to patient noncompliance 

Microbiology:

___ 1:34 pm SPUTUM      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS AND ___ 
SHORT
      CHAINS. 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Preliminary): 
      Commensal Respiratory Flora Absent. 
      PROTEUS MIRABILIS.    SPARSE GROWTH. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

___ 2:13 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:13 pm BLOOD CULTURE      Source: Catheter #1. 

   Blood Culture, Routine (Pending): 

___ 10:02 pm SEROLOGY/BLOOD      Source: Line-CVL. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 4:00 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ who had not sought medical attention for 25 to ___ years with 
h/o IVDA and alcoholism who presents with hypertensive urgency 
with SBP 230-250, N/V, HA, ultimately developing PRES and 
multiple lacunar infarcts with bleeding all thought to be ___ 
his hypertension. His medical course was complicated by 
hypercarbic respiratory failure possible ___ intermittent AMS vs 
HTN-associated pulmonary edema, persistently difficulty to 
control HTN, HTN-associated CKD, and chronic anemia ultimately 
felt to be anemia of chronic disease. He was discharged on 
multiple medications for blood pressure control, ASA, and 
atorvastatin. Evaluation by ___ on ___: home w/ home ___ & 
home OT and 24hr assist from family following 0 ___ visits. Will 
d/c with rx for standard wheelchair.

Hospital course

# Neuro - At OSH - MRI/MRV was done ___ and showed no MRV 
abnormality but did show diffuse FLAIR hyperintensity through 
the cerebral white matter, brainstem (worst ___ pons) and 
bilateral cerebellar white matter. Repeat MRI ___ showed
multiple bilateral cerebral white matter acute punctate infarcts 
(bright on DWI and dark on ADC) with associated GRE signal 
abnormality suggestive of bleed. After concern for acute stroke 
on MRI on ___, he was started on ASA 81 and
Atorvastatin. He reportedly had R sided weakness for multiple 
days prior to transfer but has been sedated on a propofol drip 
for intubation. On arrival, he had a clear R hemiparesis and 
possible L facial weakness. By the time of extubation and 
transfer to the floor Neurology service from the MICU, these 
symptoms had resolved. His mental status was notable for 
intermittent disorientation to month, year, and location. He had 
multiple anxiety episodes (which reportedly occurred frequently 
prior to admission as well) - these episodes improved with 
olanzapine which wasn't required for the 24 hours prior to 
discharge. He was started on qHS trazodone for insomnia and 
night time agitation. It may be worthwhile to repeat his MRI as 
an outpatient for prognostication purposes, though his exam is 
now clearly improved.

#Respiratory - Patient has been intubated 3x at OSH, each time 
for hypercarbic respiratory failure.  There is also question of 
patient have altered mental status which contributed to 
difficulty weaning from vent and need for intubation for airway 
protection. He was successfully extubated after arrival to the 
FICU on ___.

# CV - Patient with HAs, vision changes, elevated BP and CKD on 
admission to OSH.  Patient was kept on nitro gtt, IV hydral, IV 
metop, clonidine and IV enalapril during hospitalization at ___ 
___.  Initially maintained on nitro gtt. Gradual control of BPs 
(given history of strokes and given likely history of chronic 
HTN) was achieved with SBPs ___ the 120s to 150s with clonidine 
0.3 mg qDay (patch - changed qWk), carvedilol, lisinopril, and 
amlodipine. Clonidine can be weaned by 0.1 mg qWk over the next 
three weeks to off. Further HTN management will be directed by 
the renal service on an outpatient basis.  

# Renal: Patient with elevated creatinine and proteinuria on 
admission to OSH. Seen by nephrology at ___ who gave 
diagnosis of hypertensive nephropathy. Recommended BP control 
and initiation of Ace-inhibitor. Renal U/S at OSH was normal 
except for R renal cyst. Urine sediment reportedly bland. UA 
here unremarkable. Cr remains elevated and stable. Kidney biopsy 
performed ___. Preliminary results revealed endocapillary 
proliferation and some endothelial damage. There is evidence of 
chronic disease, arterial wall thickening, some GN. Most likely 
___ chronic kidney disease. Creatinine 2.6 on ___ creatinine 
2.8 on ___. OSH evaluation for pheo, thyroid abn, cortisol abn 
were unremarkable. Renin and aldosterone pending at the time of 
discharge. Renal dopplers limited by patient cooperation but 
overall unremarkable.

# ID - Patient grew GPCs ___ clusters ___ 2 bottles from cultures 
from ___.  Patient only had PIVs ___ place until ___.  Vanc 
sensitive. TTE without evidence of vegetation. Plan for 
vancomycin; will need two week course starting from date of 
first negative blood culture (last day ___. Also on ___, 
was found to have CXR c/f aspiration PNA. Completed 10 day 
course of IV Zosyn for this.

# Heme: Patient acutely developed an anemia with Hg drop from 
~11 to ___ over 24 hours, but then stable afterwards. Low 
reticulocyte count with elevated ferritin and haptoglobin were 
consistent with anemia of chronic disease. Given history of 
positive guaics (which resolved when the patient was put on a 
PPI), GI was consulted. EGD/Colonoscopy were unremarkable. Any 
further evidence of persistently guiaic positive stools should 
prompt capsule study. Renal felt that chronic renal disease 
could be contributing to anemia but EPO would not be recommended 
for the patient unless his anemia was long standing and until 
his BP was well controlled. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3
2. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QSUN 
RX *clonidine [Catapres-TTS-1] 0.1 mg/24 hour 3 patches qWeek 
Disp #*6 Patch Refills:*0
4. Pantoprazole 80 mg PO Q24H 
RX *pantoprazole 40 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*3
5. Carvedilol 37.5 mg PO BID 
RX *carvedilol 12.5 mg 3 tablet(s) by mouth twice a day Disp 
#*180 Tablet Refills:*3
6. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
7. Lisinopril 30 mg PO DAILY 
RX *lisinopril 30 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
8. TraZODone 50 mg PO HS 
RX *trazodone 50 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3
9. standard wheelchair
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRES

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with a hypertensive urgency with blood 
pressures as high as 240/110. This caused nausea/vomiting and 
headache and damage to your brain called posterior reversible 
leukoencephalopathy syndrome (PRES) on your Brain MRI. You also 
had multiple small strokes scattered throughout your brain on a 
repeat brain MRI. You initially required intubation for trouble 
breathing. You were transferred to one of our ICUs from another 
hospital for further management after it became difficult to 
extubate you. On admission, you had right sided weakness that 
improved over time. You were ultimately extubated and could 
breath on your own. Your blood pressure required multiple 
medications for management throughout the admission but we 
eventually kept your blood pressure controlled between 
___ on multiple blood pressure medications. You had a 
low red blood cell count (anemia) during the admission which we 
thought was likely because of the stress placed on your body 
(anemia of chronic disease). You had a scope of your upper and 
lower gut to look for other sources of bleeds but these were 
normal. You had a bacterial infection ___ your blood and a 
pneumonia that required treatment with IV Vancomycin and IV 
Zosyn for 12 days. Your kidneys also showed damage from your 
likely long standing high blood pressure. Our renal service 
evaluated you and a kidney biopsy was done to confirm this 
diagnosis. 
You have been evaluated by our physical therapists. They 
recommend discharge home with home physical therapy.
___ addition to the follow up appointments listed below, you will 
also require follow-up with a neurologist. Please obtain a 
referral from your primary care doctor.
 
Followup Instructions:
___